US07268162B2
A solution of AE (50 mg; 0.185 mmol) in THF (5 ml) was added with Fmoc-L-Ile-OPfp (211 mg; 0.407 mmol). The solution was refluxed for 48 hrs, the solvent was evaporated, and the residue was purified by chromatography (petroleum ether/ethyl acetate 3:1). 42 mg (37%) of Fmoc-L-Ile-Aloe was isolated as an an orange-coloured powder.

reactant | Fmoc-L-Ile-OPfp | 0.407 mmol, 211 mg | N([C@@H]([C@@H](C)CC)C(=O)OC1=C(F)C(F)=C(F)C(F)=C1F)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C27H22F5NO4
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | Fmoc-L-Ile | 42 mg, 37% | N([C@@H]([C@@H](C)CC)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C21H23NO4
